US05141930
To a solution of 3.0 g of 4-(4-chlorobutyl)-2,3-dihydrothieno[3,2-f]-1,4-thiazepin-5(4H)-one in 60 ml of acetic acid was added 1.5 ml of bromine with stirring at 60° C. and the mixture was stirred for 20 minutes at the same temperature. The mixture was poured into chilled water and extracted with chloroform. The extract was washed with water, dried over magnesium sulfate and the solvent was distilled off. The resulting crystals were recrystallized from ethanol to give 2.0 g of 7-bromo-4-(4-chlorobutyl)-2,3-dihydrothieno[3,2-f]-1,4-thiazepin-5(4H)-one as white crystals, melting at 81°-89° C.

reactant | 4-(4-chlorobutyl)-2,3-dihydrothieno[3,2-f]-1,4-thiazepin-5(4H)-one | 3.0 g | ClCCCCN1CCSC2=C(C1=O)C=CS2 | C11H14ClNOS2
reactant | bromine | 1.5 ml | BrBr | Br2
reactant | water | O | H2O
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 7-bromo-4-(4-chlorobutyl)-2,3-dihydrothieno[3,2-f]-1,4-thiazepin-5(4H)-one | 2.0 g | BrC1=CC=2C(N(CCSC2S1)CCCCCl)=O | C11H13BrClNOS2
